US06825200B1
(3R,5S)-1-(4-Chlorophenyl)-3,5-dimethylpiperazine
A mixture of 4-bromochlorobenzene (1.0 g), cis-2,6-dimethylpiperazine (716 mg), sodium tert-butoxide (728 mg), (S)-(−)-BINAP (97.6 mg), and tris(dibenzylideneacetone)dipalladium(0) (71.6 mg) in anhydrous toluene (50 ml) was heated at 100° C. under a nitrogen atmosphere for 3 hours. The dark colored reaction mixture was filtered through celite and the celite was washed with chloroform. The filtrate was concentrated, and the residue was purified by silica gel column chromatography (chloroform-methanol 60:1) to give the title compound as a yellow powder (1.15 g).

reactant | 4-bromochlorobenzene | 1.0 g | BrC1=CC=C(C=C1)Cl | C6H4BrCl
reactant | cis-2,6-dimethylpiperazine | 716 mg | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
reactant | sodium tert-butoxide | 728 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 71.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | (S)-(−)-BINAP | 97.6 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
product | (3R,5S)-1-(4-Chlorophenyl)-3,5-dimethylpiperazine | 1.15 g | ClC1=CC=C(C=C1)N1C[C@H](N[C@H](C1)C)C | C12H17ClN2
